US07666901B2
Preparation of (1E,4S,4aR,5R,6aS,7S,9aR)-1-(anilinomethylene)-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate
To a solution of 50 mg (0.116 mmol) 17-hydroxywortmannin in 1 mL CH2Cl2 is added 26.2 mL (0.287 mmol) aniline. The reaction mixture is stirred at room temperature for 1 week and then concentrated in vacuo. The residue is dissolved in EtOAc and triturated with hexane to give a yellow powder. The yellow powder is purified by silica gel chromatography, (hexane/EtOAc) to give an oil. The oil is triturated with hexane to give 26 mg (42.8%) product as an orange powder. HRMS (ESI) m/z calcd for C29H33NO8 523.22074, found: 524.22692 (M+H)+1.

reactant | 17-hydroxywortmannin | 0.116 mmol, 50 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
reactant | aniline | 0.287 mmol, 26.2 mL | NC1=CC=CC=C1 | C6H7N
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (1E,4S,4aR,5R,6aS,7S,9aR)-1-(anilinomethylene)-7,11-dihydroxy-4-(methoxymethyl)-4a,6a-dimethyl-2,10-dioxo-1,2,4,4a,5,6,6a,7,8,9,9a,10-dodecahydroindeno[4,5-h]isochromen-5-yl acetate | 26 mg, 42.8% | C(C)(=O)O[C@@H]1C[C@@]2([C@H](CC[C@H]2C=2C(C(=C3\C(\C(O[C@@H]([C@@]3(C21)C)COC)=O)=C/NC2=CC=CC=C2)O)=O)O)C | C29H33NO8
